US04471138
Preparation of tertiarybutylaminoethoxyethanol
736 g of tertiarybutylamine and 500 g of 2-chloroethoxyethanol were placed in 2 liters of ethanol and heated at 60° C. overnight. The temperature was then gradually raised to 80° C. and held for 5 days. The reaction mixture was cooled to 50° C. and then treated with 247 g of KOH. After 1 hour at refluxing the reaction was cooled, filtered, vacuum stripped and distilled. The yield of the distilled product, which calculates as a 75.6% yield, was 491 g, and it had a b.p. of 117° C. at 10 mm. Analysis calculated for C8H19NO2 :% C 59.63; %H, 11.80, %N, 8.70; Found: % C, 58.99, %H, 11.82; %N, 8.38.

reactant | tertiarybutylamine | 736 g | C(C)(C)(C)N | C4H11N
reactant | 2-chloroethoxyethanol | 500 g | ClCCOC(C)O | C4H9ClO2
reactant | KOH | 247 g | [OH-].[K+]
solvent | ethanol | 2 liters | C(C)O | C2H6O
product | tertiarybutylaminoethoxyethanol | 75.6% yield | C(C)(C)(C)NCCOC(C)O | C8H19NO2
